US07534797B2
cis-N-{[3-(8-Amino-1-(2-phenylquinolin-7-yl)imidazo[1,5-a]pyrazin-3-yl) cyclobutyl]-methyl}acetamide
A suspension of 3-[4-(aminomethyl)cyclobutyl]-1-(2-phenylquinolin-7-yl)imidazo[1,5-a]pyrazin-8-amine (0.237 mmol, 100. mg) in DCM (6 mL) was charged with DIEA (0.475 mmol, 83 μL) and Ac2O (0.237 mmol, 22.43 μL) at −40° C. The reaction solution was warmed to rt slowly and stirred under N2 for 1.5 h. The reaction was quenched with water (3 mL), diluted with methylene chloride (20 mL), washed with water (30 mL) and brine (30 mL), and dried (Na2SO4). The filtrate was concentrated under reduced pressure, and the crude material was purified by silica gel flush column chromatography (Jones Flashmaster, 10 g/70 mL cartridge), eluting with 3% MeOH (7 N NH3) in DCM, yielding the title compound as a light yellow solid. The sample was recrystallized from DCM (minimal amount) and EtOAc. The final product was obtained as an off-white solid; 1H NMR (400 MHz, CDCl3) δ 8.43-8.42 (m, 1H), 8.28 (dd, J=8.0 Hz, 0.4 Hz, 1H), 8.20-8.18 (m, 2H), 7.97-7.92 (m, 3H), 7.57-7.48 (m, 3H), 7.15 (d, J=4.8 Hz, 1H), 7.12 (d, J=5.2 Hz, 1H), 5.19 (b, 2H), 3.78-3.70 (m, 1H), 3.38 (t, J=5.6 Hz, 2H), 2.77-2.66 (m, 3H), 2.42-2.34 (m, 2H), 1.87 (s, 3H); MS (ES+): m/z 463 (100) [MH+]; HPLC: tR=2.06 min (OpenLynx, polar—5 min).

reactant | 3-[4-(aminomethyl)cyclobutyl]-1-(2-phenylquinolin-7-yl)imidazo[1,5-a]pyrazin-8-amine | 0.237 mmol | NCC1CCC1C1=NC(=C2N1C=CN=C2N)C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2 | C26H24N6
reactant | DIEA | 0.475 mmol, 83 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | Ac2O | 0.237 mmol, 22.43 μL | CC(=O)OC(=O)C | C4H6O3
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
product | cis-N-{[3-(8-Amino-1-(2-phenylquinolin-7-yl)imidazo[1,5-a]pyrazin-3-yl) cyclobutyl]-methyl}acetamide | NC=1C=2N(C=CN1)C(=NC2C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2)[C@H]2C[C@H](C2)CNC(C)=O | C28H26N6O
